US07943774B2
2-(2H-Indazol-2-yl)-1-{4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (I-70)
4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride (II-1, 309 mg), prepared according to Process 1.2, is reacted analogously to Example I-63 with 2H-indazol-2-ylacetic acid (194 mg). After chromatographic purification, this gives 2-(2H-indazol-2-yl)-1-{-4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (67 mg).

reactant | 4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride | 309 mg | Cl.C1(=CC=CC=C1)CCC=1N=C(SC1)C1CCNCC1
reactant | 2H-indazol-2-ylacetic acid | 194 mg | N=1N(C=C2C=CC=CC12)CC(=O)O | C9H8N2O2
product | 2-(2H-Indazol-2-yl)-1-{4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone | N=1N(C=C2C=CC=CC12)CC(=O)N1CCC(CC1)C=1SC=C(N1)CCC1=CC=CC=C1 | C25H26N4OS
